US09388189B2
c) N-(3-Fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-hydroxybenzenesulfonamide
N-(3-Bromo-5-fluorophenyl)-4-hydroxybenzenesulfonamide (480 mg, 1.39 mmol), bis(pinacolato)diboron (532 mg, 2.09 mmol), potassium acetate (412 mg, 4.2 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (115 mg, 0.14 mmol) were suspended in dioxane (10 ml) and heated to 100° C. for 2 h. After usual work-up with water and ethyl acetate, the reaction crude was purified by flash chromatography using SP1® Purification System (0% to 50%, dichloromethane-ethyl acetate) to obtain 348 mg of the title compound as an oil. (64% yield). Purity: 100%.

reactant | N-(3-Bromo-5-fluorophenyl)-4-hydroxybenzenesulfonamide | 1.39 mmol, 480 mg | BrC=1C=C(C=C(C1)F)NS(=O)(=O)C1=CC=C(C=C1)O | C12H9BrFNO3S
reactant | bis(pinacolato)diboron | 2.09 mmol, 532 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.2 mmol, 412 mg | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-hydroxybenzenesulfonamide | 348 mg, 64% yield | FC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)O | C18H21BFNO5S
